US05495046
570 mg of platinum dioxide was suspended in a solution of 11.39 g of the crude ethyl 5-chloro-2-(2-phenylethoxy)cinnamate in 80 ml of ethyl acetate and stirred in a hydrogen gas stream at room temperature for 4.5 hours. Filtering through Celite and evaporating under reduced pressure gave 10.76 g of crude ethyl 3-[5-chloro-2-(2-phenylethoxy)phenyl]propionate. This compound was not purified any more but used in the subsequent reaction as such.

reactant | ethyl 5-chloro-2-(2-phenylethoxy)cinnamate | 11.39 g | ClC=1C=CC(=C(C=CC(=O)OCC)C1)OCCC1=CC=CC=C1 | C19H19ClO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum dioxide | 570 mg | [Pt](=O)=O
product | ethyl 3-[5-chloro-2-(2-phenylethoxy)phenyl]propionate | 10.76 g | ClC=1C=CC(=C(C1)CCC(=O)OCC)OCCC1=CC=CC=C1 | C19H21ClO3
